US06515005B2
Ethyl 2-Bromo-4-methylthiazole-5-carboxylate, Scheme 3: (I)
Ethyl 2-amino-4-methylthiazole-5-carboxylate (1.20 g, 6.44 mmoles) was added to a solution of 85% phosphoric acid (18 mL) and 70% nitric acid (9 mL) at 0° C. Aqueous sodium nitrite(1.38 g (20 mmol) in water (9 mL) was immediately added dropwise over 20 minutes. After stirring at 0° C. for 15 minutes, cuprous bromide (930 mg, 6.44 mmoles) in hydrobromic acid (9 mL) was added. After stirring for 10 minutes, water (30 mL) was added. The mixture was filtered and the crude solid purified via silica gel chromatography (10% ethyl acetate/hexane) to afford 1.15 g (4.6 mmoles) of the product as a yellow solid (71%). H1 NMR (CDCl3) δ 4.35 (2H, q, J=7.1 Hz), 2.73 (3H, s), 1.38 (3H, t, J=7.1 Hz).

reactant | Ethyl 2-amino-4-methylthiazole-5-carboxylate | 6.44 mmoles, 1.20 g | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | phosphoric acid | 18 mL | P(O)(O)(O)=O | H3O4P
reactant | nitric acid | 9 mL | [N+](=O)(O)[O-] | HNO3
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 9 mL | Br | BrH
solvent | water | 9 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | Ethyl 2-Bromo-4-methylthiazole-5-carboxylate | 4.6 mmoles, 1.15 g, 71% | BrC=1SC(=C(N1)C)C(=O)OCC | C7H8BrNO2S
